US08975400B2
2-chloro-4-(2-cyano-4-formylphenoxy)benzonitrile
The title compound was prepared by a procedure similar to that described for D4 starting from 2-fluoro-5-formylbenzonitrile and 2-chloro-4-hydroxybenzonitrile.

reactant | 2-fluoro-5-formylbenzonitrile | FC1=C(C#N)C=C(C=C1)C=O | C8H4FNO
reactant | 2-chloro-4-hydroxybenzonitrile | ClC1=C(C#N)C=CC(=C1)O | C7H4ClNO
product | 2-chloro-4-(2-cyano-4-formylphenoxy)benzonitrile | ClC1=C(C#N)C=CC(=C1)OC1=C(C=C(C=C1)C=O)C#N | C15H7ClN2O2
